Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg claudication
Hx of right femoral pseudoaneurysm 
Right wrist cellulitis
 
Major Surgical or Invasive Procedure:
___:
1. Right femoral pseudoaneurysm repair
2. Right DCB angioplasty distal fem pop

 
History of Present Illness:
This is a ___ man with a previous aortobifem bypass who 
subsequently required right- sided femoral popliteal bypass with 
vein, who developed a
pseudoaneurysm of the right common femoral artery.  This 
measured up to 5.5 cm in diameter.  Furthermore, on duplex 
ultrasonography there was evidence of a velocity increase at the 
distal anastomosis of the femoral popliteal bypass
suggestive of restenosis.  Therefore, the patient was brought to 
the operating room for excision of right femoral pseudoaneurysm 
and treatment of  distal vein graft stenosis.
 
Past Medical History:
PMH:
dyslipidemia
Dysrhythmia (pacemaker placed ___
Hypertension
Ischemic Heart disease 
CABG ___
PVD/PAD
Right Fem-Pop bypass ___
Right aorta bifemoral bypass graft in ___
Valvular Heart Disease
Aortic root heart valve implanted in ___
COPD
Arthritis
CVA right sided in ___
TIA in ___
Seizures - no seizures since started on Dilantin 200mg BID

Surgical Hx:
-Appy
-CABG with MVR
-AAA ___
-aortobifem bypass ___
-R fem-pop bypass ___
-pacemaker implant 200 and ___
 
Social History:
___
Family History:
Father deceased leukemia
Mother deceased bone ca
Brother alive / CAD, MI
 
Physical Exam:
VS: T 98.9 HR 76 BP 119/60 RR 18 ___ 96RA 
General: AAOx3 
CV: Normal rate, reg rhythym. 
Lungs: CLAB
Abd: soft, nontender to palpation. Groin incision c/d/I. No 
erythema no swelling. 
Extremities: No edema, clubbing or otherwise apparent deformity.
R: P/D/D/D L: P/D/D/D

 
Pertinent Results:
___ 06:40AM BLOOD WBC-3.8* RBC-2.81* Hgb-9.4* Hct-28.2* 
MCV-100* MCH-33.5* MCHC-33.3 RDW-12.6 RDWSD-46.4* Plt ___
___ 05:06PM BLOOD WBC-5.2 RBC-3.41* Hgb-11.6* Hct-34.2* 
MCV-100* MCH-34.0* MCHC-33.9 RDW-12.8 RDWSD-47.3* Plt ___
___ 06:53AM BLOOD WBC-5.2 RBC-3.20* Hgb-10.9* Hct-31.4* 
MCV-98 MCH-34.1* MCHC-34.7 RDW-12.9 RDWSD-46.3 Plt Ct-93*
___ 11:45AM BLOOD WBC-4.6 RBC-3.20* Hgb-10.8* Hct-31.5* 
MCV-98 MCH-33.8* MCHC-34.3 RDW-12.8 RDWSD-46.3 Plt Ct-90*
___ 04:30AM BLOOD WBC-6.2 RBC-3.05* Hgb-10.1*# Hct-30.4* 
MCV-100* MCH-33.1* MCHC-33.2 RDW-13.2 RDWSD-47.8* Plt Ct-79*
___ 06:40AM BLOOD Neuts-70.3 Lymphs-15.9* Monos-9.4 Eos-3.1 
Baso-0.8 Im ___ AbsNeut-2.69 AbsLymp-0.61* AbsMono-0.36 
AbsEos-0.12 AbsBaso-0.03
___ 05:06PM BLOOD Neuts-78.1* Lymphs-9.1* Monos-11.2 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-4.05 AbsLymp-0.47* 
AbsMono-0.58 AbsEos-0.03* AbsBaso-0.03
___ 06:40AM BLOOD Plt ___
___ 05:06PM BLOOD Plt ___
___ 06:53AM BLOOD Plt Ct-93*
___ 11:45AM BLOOD Plt Ct-90*
___ 04:30AM BLOOD Plt Smr-VERY LOW Plt Ct-79*
___ 06:40AM BLOOD Glucose-140* UreaN-15 Creat-0.7 Na-138 
K-3.7 Cl-104 HCO3-23 AnGap-15
___ 11:00AM BLOOD Glucose-260* UreaN-13 Creat-0.7 Na-138 
K-3.9 Cl-102 HCO3-25 AnGap-15
___ 06:53AM BLOOD Glucose-142* UreaN-11 Creat-0.6 Na-137 
K-3.4 Cl-103 HCO3-23 AnGap-14
___ 11:45AM BLOOD Glucose-137* UreaN-13 Creat-0.7 Na-138 
K-3.6 Cl-104 HCO3-25 AnGap-13
___ 04:30AM BLOOD Glucose-72 UreaN-20 Creat-0.8 Na-140 
K-3.9 Cl-105 HCO3-21* AnGap-18
___ 06:40AM BLOOD Calcium-9.1 Phos-3.4
___ 11:00AM BLOOD Calcium-9.4 Phos-3.3 Mg-2.0
___ 06:53AM BLOOD Calcium-8.9 Phos-2.4* Mg-1.8
___ 11:45AM BLOOD Calcium-8.8 Phos-2.5* Mg-1.9
___ 04:30AM BLOOD Phos-4.0 Mg-1.8

Radiology Report UNILAT UP EXT VEINS US RIGHT Study Date of 
___ 3:05 ___ 
 
  

___ FA5 ___ 3:05 ___ 
UNILAT UP EXT VEINS US RIGHT   Clip # ___   
Reason: DVT of the RUE?  
 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old man with new onset right wrist erythema/swelling, 
suspicion for DVT  
REASON FOR THIS EXAMINATION: 
   DVT of the RUE?  
 

 

Final Report 
EXAMINATION:  VENOUS DUP UPPER EXT UNILATERAL 
  
INDICATION:  ___ year old man with new onset right wrist 
erythema/swelling, 
suspicion for DVT  // DVT of the RUE? 
  
TECHNIQUE:  Grey scale and Doppler evaluation was performed on 
the right upper 
extremity veins. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is normal flow with respiratory variation in the right 
subclavian vein. 
The right internal jugular and axillary veins are patent, show 
normal color 
flow and compressibility. The right brachial, basilic, and 
cephalic veins are 
patent, compressible and show normal color flow and 
augmentation.  Superficial 
edema is noted within the soft tissues of the right wrist. 
  
IMPRESSION:  
  
No evidence of deep vein thrombosis in the right upper 
extremity. Superficial 
edema about the right wrist. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 5:52 
___ 
 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M with right femoral pseduoaneurysm. He 
was admitted ___ for scheduled aneurysm resection w Dacron 
interposition graft as well as DCB angioplasty of distal fem pop 
anastomosis. Estimated blood loss was 200 during the case, and 
the case went well. He was transferred to the vascular surgery 
service floor postoperatively. He did well following surgery. 
Within 24 hours his pain was adequately controlled on po 
medication, he was able to get out of bed to chair. He did 
require a straight catheterization of his bladder x1 due to 
urinary retention however this resolved. He began tolerating 
regular diet and resumed his home medications. On ___ in 
the AM he reported some right wrist pain, however there were no 
physical exam findings to accompany this pain and it was managed 
symptomatically at onset. Later over the course of the evening 
he developed erythema and swelling of the right wrist, extending 
over the soft tissues of the dorsal wrist and hand, and to the 
knuckle of the right ring finger. The patient endorses 
significant pain with ROM. He disclosed a history of similar 
such symptoms (approximately 5 episodes total) for which he was 
treated at an outside hospital with Keflex and experienced 
complete resolution of symptoms, per his report. The medicine 
service was consulted for this problem, and empiric Keflex po 
was initiated. The medicine service agreed with this plan, 
though they maintained a suspicion of rheumatologic etiology. 12 
hours following the initiation of antibiotic therapy the 
erythema and swelling improved substantially, and the pain 
decreased. Given the patient's near complete resolution of wrist 
symptoms, it was determined that Keflex was an appropriate 
therapy. A DVT u/s was done at the time of symptoms onset and 
yielded no acute thrombus or occlusion. Once appropriate the 
patient was discharged with instructions on wound care and 
following up in clinic. He was instructed to follow up with his 
PCP (who was notified via telephone msg) regarding this 
recurrent hand erythema/swelling. 
 
Medications on Admission:
ASA 81mg QD
Cimetidine 400mg BID
Plavix 75mg QD
Dilantin 100mg BID
Flexeril 10mg QHs
gemfibrozol 600mg BID
Pravastatin 80 mg at Hs
Terazosin 10mg Qhs 
Tylenol ___ Qhs 
Paroxetine 10mg  Qam

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0
2. Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*28 Capsule Refills:*0
3. Cimetidine 400 mg PO BID 
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0
5. Cyclobenzaprine 10 mg PO HS 
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*20 Tablet Refills:*0
8. Paroxetine 10 mg PO DAILY 
9. Phenytoin Sodium Extended 200 mg PO BID 
10. Pravastatin 80 mg PO QPM 
11. Senna 8.6 mg PO DAILY:PRN constipation 
RX *sennosides [___] 8.6 mg 1 cap by mouth once a day Disp 
#*30 Tablet Refills:*0
12. Terazosin 10 mg PO QHS 
13. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen [Pain Relief] 650 mg 1 tablet(s) by mouth 
every six (6) hours Disp #*30 Tablet Refills:*0
14. Ibuprofen 400 mg PO Q8H:PRN pain 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right femoral pseudoaneurysm 
Right leg claudication
Right wrist cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ and 
underwent a right femoral pseudoaneurysm repair as well as an 
angioplasty of the distal femoral-popliteal artery. You have now 
recovered from surgery and are ready to be discharged. Please 
follow the instructions below to continue your recovery:

MEDICATION:
• Take Aspirin 81mg (enteric coated) once daily 
• If instructed, take Plavix (Clopidogrel) 75mg once daily
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 
 

 
Followup Instructions:
___